datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]CC 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)[O]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)[O][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"C[S+:10]([H])[C:20]([O:21]C)([O]C)[O][H].[Cl-]>>[Cl-].C[S:10][H].C[O+:21]=[C:20]([O]C)[O][H] 21=20;20,10=10"
"CCN([C:20](=[O:10])OC1=CC=CC=C1)CCCCCC.[O-:21]CCCCCC>>CCN([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]CCCCCC)CCCCCC 21=20;20,10=10"
"CC[S+:10]([H])[C:20]([O:21]C)([O]C)[S]C.[Cl-]>>[Cl-].CC[S:10][H].C[O+:21]=[C:20]([O]C)[S]C 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C([H])[CH]([H])[O]1 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(CC)C(C8=CC=CC=C8)[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(CC)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][S+:10](C([H])C(C)C(CC)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C([H])C(C)C(CC)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.[H][O:10][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C([H])[CH]([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C([H])[S]2.C[O:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])[O][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1 10=20;20,21=21"
"[O-:10]C(CC)/C(O)=C([C:20]([H])=[O:21])/O>>[O-:21][C:20]1([H])[O:10]C(CC)C(O)=C1O 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[NH:10](C)C([H])C(C)C(O)C([H])[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])C(O)C(C)C([H])[NH+:10]1(C) 10=20;20,21=21"
"[O:10]([Na])C(CCC)C(O)C([C:20](C)=[O:21])O>>[O-:21][C:20]1(C)[O+:10]([Na])C(CCC)C(O)C1O 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)C)CCCCCC>>[H]N([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)C)[O-:10])CCCCCC 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])CC)C)CC)CCCCCC>>CN([C:20]1(OC(C(C([O:21]1)CC)C)CC)[O-:10])CCCCCC 21=20;20,10=10"
"[H]N([C:20]1(OC(C([O:21]1)C)[H])[O-:10])C1=CC=CC=C1>>[H]N([C:20](=[O:10])OC(C([O-:21])C)[H])C1=CC=CC=C1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1)CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)CCCCCC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[O][CH](CC)C([H])[CH](C)[S]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(CC)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[K][O:21]C1=CC=CC=C1.[C:20](=[O:10])(OCCCCCC)OC1=CC=CC=C1>>[K][O+:21]([C:20]([O-:10])(OCCCCCC)OC1=CC=CC=C1)C1=CC=CC=C1 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1[H])OCC)[H])CCCCCC>>C(C([O-:21])[H])(C(O[C:20](=[O:10])OCC)[H])CCCCCC 10=20;20,21=21"
"[H][S:10]C(CC)C([H])C(CC)[S][C:20]([S]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])C(CC)[S]1)[C:20]1([O:21][H])[S]C 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([O:21][H])[O]CC.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([O]CC)=[O+:21][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(CC)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CC)[H])CCCCCC)[O-:10])C>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CC)[H])CCCCCC)C 10=20;20,21=21"
"C[O:10][H].C[O+:21]=[C:20]([S]C)[S]CC.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([O:21]C)([S]C)[S]CC 10=20;20,21=21"
"C1(C([O:21][C:20](O1)([O-:10])OC1=CC=CC=C1)CCCCCC)C>>C(C(O[C:20](=[O:10])OC1=CC=CC=C1)C)([O-:21])CCCCCC 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"[NH:10](C)C(CC)/C([H])=C(C)\C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C(C)=C([H])C(CC)[NH+:10]1(C) 10=20;20,21=21"
"[O-:21][C:20]1(OC)[O+:10]([Na])C(CC)C(C)=C1O>>[O:10]([Na])C(CC)/C(C)=C([C:20](OC)=[O:21])/O 21=20;20,10=10"
"[H][O+:10](C(C)C(C)C([H])[NH]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C([H])[NH][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
"CC1C(O[C:20](N1[H])([O-:10])[O:21]CC)CCCCCC>>CC1C(O[C:20](=[O:10])N1[H])CCCCCC.[O-:21]CC 10=20;20,21=21"
